US06166034
Methyl 6-(trifluoromethylsulphonyloxy)nicotinate
Methyl 6-hydroxynicotinate (J. Am. Chem. Soc., 1982, 1428-30) (9.00 g, 0.058 mol) was dissolved in dry pyridine (150 ml) and was treated with trifluoromethanesulphonic anhydride (10.73 ml, 0.064 mol), dropwise with stirring under argon with ice cooling. After 2 h, a further amount of trifluoromethanesulphonic anhydride (2.68 ml, 0.016 mol) was added, and the mixture was stirred for a further 1 h before being left standing at room temp. overnight. The reaction mixture was then evaporated under reduced pressure, and the residue partitioned between dichloromethane and sodium hydrogen carbonate solution. The organic layer was then washed with sodium hydrogen carbonate solution, dried (Na2SO4) and evaporated under reduced pressure to give a brown oil, which was azeotroped with toluene (2×) and dried in vacuo to give the title compound as a brown oil (1 1.07 g, 67%).

reactant | Methyl 6-hydroxynicotinate | 0.058 mol, 9.00 g | OC1=NC=C(C(=O)OC)C=C1 | C7H7NO3
reactant | trifluoromethanesulphonic anhydride | 0.064 mol, 10.73 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | trifluoromethanesulphonic anhydride | 0.016 mol, 2.68 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 6-(trifluoromethylsulphonyloxy)nicotinate | 1.07 g, 67% | FC(S(=O)(=O)OC1=NC=C(C(=O)OC)C=C1)(F)F | C8H6F3NO5S
